US07538121B2
2-Methyl-1,2,3,4-tetrahydroquinoline
A mixture of 2-methylquinoline (584 mg, 4.1 mmol), indium powder (4.21 g, 36.7 mmol), saturated aqueous ammonium chloride solution (6.3 ml) and ethanol (21 ml) were heated at reflux for 3 days. On cooling to room temperature, water was added and the mixture was filtered through Keiselguhr. The filtrate was adjusted to pH 9 with 2M sodium hydroxide solution and extracted with DCM (×2). The extracts were dried over MgSO4 and concentrated in vacuo to give the crude product which was purified by flash column chromatography. Elution with 10% EtOAc in 60-80C petroleum ether gave the title compound as a pale yellow oil (383 mg). 1H NMR (400 MHz, CDCl3) δ (ppm): 6.96 (m, 2H), 6.60 (t, 1H), 6.47 (d, 1H), 3.68 (br, 1H), 3.40 (m, 1H), 2.84 (ddd, 1H), 2.72 (ddd, 1H), 1.92 (m, 1H), 1.60 (m, 1H), 1.21 (d, 3H).

reactant | 2-methylquinoline | 4.1 mmol, 584 mg | CC1=NC2=CC=CC=C2C=C1 | C10H9N
reactant | indium | 36.7 mmol, 4.21 g | [In] | In
reactant | ammonium chloride | 6.3 ml | [Cl-].[NH4+]
reactant | ethanol | 21 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Methyl-1,2,3,4-tetrahydroquinoline | 383 mg | CC1NC2=CC=CC=C2CC1 | C10H13N
